US07560567B2
Preparation of N-{2-[3-chloro-5-(trifluoromethyl)-2-Pyridinyl]butyl}-2-(trifluoromethyl)benzamide (compound 39)
100 mg of 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-1-butanamine (0.0004 mol), 58 μL of 2-(trifluoromethyl)benzoic acid(0.0004 mol), 0.109 g of 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (0.0004 mol) are stirred in 2 mL of ethanol at room temperature overnight.

reactant | 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-1-butanamine | 0.0004 mol, 100 mg | ClC=1C(=NC=C(C1)C(F)(F)F)C(CN)CC | C10H12ClF3N2
reactant | 2-(trifluoromethyl)benzoic acid | 0.0004 mol, 58 μL | FC(C1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O2
reactant | 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 0.0004 mol, 0.109 g | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-{2-[3-chloro-5-(trifluoromethyl)-2-Pyridinyl]butyl}-2-(trifluoromethyl)benzamide | ClC=1C(=NC=C(C1)C(F)(F)F)C(CNC(C1=C(C=CC=C1)C(F)(F)F)=O)CC | C18H15ClF6N2O
